US04476135
The starting material is obtained as follows: 5 g 5-chloro-N-cyano-2,1,3-benzothiadiazol-4-amine are added to a solution of 0.55 g sodium in 60 ml ethanol and the mixture is reacted with 3 g allyl bromide. The mixture is agitated 3 hours under refluxing and the solvent evaporated under vacuum. The residue is extracted with methylene chloride. N-allyl-5-chloro-N-cyano-2,1,3-benzothiadiazol-4-amine (M.P. 62°-63°) is obtained.

reactant | 5-chloro-N-cyano-2,1,3-benzothiadiazol-4-amine | 5 g | ClC1=C(C=2C(=NSN2)C=C1)NC#N | C7H3ClN4S
reactant | sodium | 0.55 g | [Na] | Na
reactant | allyl bromide | 3 g | C(C=C)Br | C3H5Br
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | N-allyl-5-chloro-N-cyano-2,1,3-benzothiadiazol-4-amine | C(C=C)N(C1=C(C=CC2=NSN=C21)Cl)C#N | C10H7ClN4S
